US07943551B2
Step 5: Synthesis of methyl 4-chloro-3-cyclopropylmethylthio-2-methylbenzoate
1.66 g (5.09 mmol) of cesium carbonate in 20 ml of acetonitrile were added to 1.05 g (4.85 mmol) of methyl 4-chloro-3-mercapto-2-methylbenzoate. 687 mg (5.09 mmol) of cyclopropylmethyl bromide were slowly added dropwise, and the reaction mixture was stirred at RT for 16 h. For work-up, the solvent was removed, and water was added to the residue. The mixture was extracted three times with ethyl acetate, the combined organic phases were dried and filtered and the solvent was removed. What was isolated were 1.2 g of pure product.

reactant | cesium carbonate | 5.09 mmol, 1.66 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 4-chloro-3-mercapto-2-methylbenzoate | 4.85 mmol, 1.05 g | ClC1=C(C(=C(C(=O)OC)C=C1)C)S | C9H9ClO2S
reactant | cyclopropylmethyl bromide | 5.09 mmol, 687 mg | C1(CC1)CBr | C4H7Br
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | methyl 4-chloro-3-cyclopropylmethylthio-2-methylbenzoate | ClC1=C(C(=C(C(=O)OC)C=C1)C)SCC1CC1 | C13H15ClO2S
